US04876354
20 ml (31 mmol) of a 1.55 molar solution of n-butyllithium in hexane were added dropwise to a solution of 3.03 g (15 mmol) of (3-dimethylaminobenzyl)-imidazole and 1.75 g (15 mmol) of TMEDA in 30 ml of absolute THF. Stirring was carried out for 1 hour at -70° C., after which a solution of 2.26 g of adamantanone in 40 ml of absolute THF was added dropwise at -30° to -15° C. The mixture was allowed to warm up to room temperature in the course of about 45 minutes and was stirred for a further 2 hours at room temperature, 400 ml of water were added at 10° C., while cooling, and stirring was continued for 15 minutes at 0°-5° C., a crystalline precipitate being formed. This was filtered off under suction, rinsed with hexane and diisopropyl ether and dried in vacuo. 2.20 g (= 41.7% yield) of pure (3-dimethylaminophenyl)-(2-hydroxy-2-adamantyl)-1-imidazolylmethane of melting point 185° C. were obtained.

reactant | n-butyllithium | C(CCC)[Li]
reactant | (3-dimethylaminobenzyl)-imidazole | 15 mmol, 3.03 g | CN(C=1C=C(CC=2NC=CN2)C=CC1)C | C12H15N3
reactant | TMEDA | 15 mmol, 1.75 g | CN(C)CCN(C)C | C6H16N2
reactant | adamantanone | 2.26 g | C12C(C3CC(CC(C1)C3)C2)=O | C10H14O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | water | 400 ml | O | H2O
product | (3-dimethylaminophenyl)-(2-hydroxy-2-adamantyl)-1-imidazolylmethane | 2.20 g, 41.7% yield | CN(C=1C=C(C=CC1)C(C=1NC=CN1)C1(C2CC3CC(CC1C3)C2)O)C | C22H29N3O
